US07112589B2
To a solution of (5-bromo-2-chloro-pyrimidin-4-yl)-(2,2-dimethyl-propyl)-amine (30 g, 108 mmol) in THF (500 ml) is added n-butyllithium (1.6 mol/l in n-hexane, 148 ml, 237 mmol) dropwise at −78° C. and the mixture is stirred for 10 min. Ethylformate (19 ml, 230 mol) is added dropwise to the mixture at −78° C., and the reaction mixture is allowed to warm to ambient temperature. After being stirred for 1 hour, the reaction mixture is quenched with saturated NH4Cl at −78° C. and then extracted with AcOEt. The combined extracts are washed with water, brine, dried over MgSO4 and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent:n-hexane:AcOEt=4:1) give 2-chloro-4-(2,2-dimethyl-propylamino)-pyrimidine-5-carbaldehyde. Rf=0.56 (n-hexane:AcOEt=1:1). 1H NMR (400 MHz, DMSO-d6) δ 1.00 (s, 9H), 3.41 (d, 2H), 8.40 (s, 1H), 8.88 (brs, 1H), 9.84 (s, 1H).

reactant | (5-bromo-2-chloro-pyrimidin-4-yl)-(2,2-dimethyl-propyl)-amine | 108 mmol, 30 g | BrC=1C(=NC(=NC1)Cl)NCC(C)(C)C | C9H13BrClN3
reactant | n-butyllithium | 237 mmol, 1.6 mol/l, 148 ml | C(CCC)[Li]
reactant | Ethylformate | 230 mol, 19 ml | C(C)OC=O | C3H6O2
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 2-chloro-4-(2,2-dimethyl-propylamino)-pyrimidine-5-carbaldehyde | ClC1=NC=C(C(=N1)NCC(C)(C)C)C=O | C10H14ClN3O
